US07897609B2
Triethylamine (35.95 mL, 257.9 mmol) was added to a suspension of 7-bromo-4-chloro-3-nitro[1,5]naphthyridine (49.6 g, 172 mmol) in dichloromethane (500 mL). 1-Amino-2-methylpropan-2-ol (16.86 g, 189 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for 16 hours and then concentrated under reduced pressure. The residue was triturated with water and stirred for 1 hour. The precipitated solid was isolated by filtration, washed with water, and dried. This material was suspended in diethyl ether (400 mL), sonicated, isolated by filtration, and then dried in a vacuum oven at 40° C. for 16 hours to provide 58.1 g of 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol as a yellow solid, mp 189-190° C.

reactant | Triethylamine | 257.9 mmol, 35.95 mL | C(C)N(CC)CC | C6H15N
reactant | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | 172 mmol, 49.6 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
reactant | 1-Amino-2-methylpropan-2-ol | 189 mmol, 16.86 g | NCC(C)(O)C | C4H11NO
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 58.1 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C12H13BrN4O3
